US07855194B2
2-(Piperidin-4-ylamino)-pyrimidin-4-ol dihydrochloride
A solution of 4-(4-methoxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid ethyl ester (1.5 g, 5.35 mmol) in ethanol (50 mL) and conc. HCl (75 mL) was heated to reflux for 18 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 194.9 [M+H]+.

reactant | 4-(4-methoxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid ethyl ester | 5.35 mmol, 1.5 g | C(C)OC(=O)N1CCC(CC1)NC1=NC=CC(=N1)OC | C13H20N4O3
reactant | HCl | 75 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(Piperidin-4-ylamino)-pyrimidin-4-ol dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC=CC(=N1)O | InChI=1S/C9H14N4O.2ClH/c14-8-3-6-11-9(13-8)12-7-1-4-10-5-2-7;;/h3,6-7,10H,1-2,4-5H2,(H2,11,12,13,14);2*1H
